US07786108B2
Step 2. Preparation of (S)-(3,5-Bis-trifluoromethyl-benzyl)-(4-methyl-3,5,6,7,8,9-hexahydro-1H-2-oxa-5-aza-cyclohepta[f]inden-9-yl)-(2-methyl-2H-tetrazol-5-yl)-amine
To a solution of (S)-(3,5-Bis-trifluoromethyl-benzyl)-(4-bromo-3,5,6,7,8,9-hexahydro-1H-2-oxa-5-aza-cyclohepta[f]inden-9-yl)-(2-methyl-2H-tetrazol-5-yl)-amine (2.16 mmol) in dioxane (150 mL), add bis(diphenylphosphinoferrocene)palladium(II) chloride (0.22 mmol) followed by cesium fluoride (9.32 mmol) and methylboronic acid (6.48 mmol). Heat the mixture under nitrogen to 95° C. After heating for 2 h, cool the reaction mixture to room temperature and dilute with ethyl acetate (50 mL) and water (50 mL). Separate the organics and wash the aqueous with ethyl acetate (2×20 mL). Dry the combined organics over sodium sulfate, filter, and remove the solvent under vacuum. Chromatograph the crude product over silica gel, eluting with ethyl acetate/hexane (10-45%) to obtain the title compound as an off white solid. MS (ES+): 527 (M+H).

reactant | (S)-(3,5-Bis-trifluoromethyl-benzyl)-(4-bromo-3,5,6,7,8,9-hexahydro-1H-2-oxa-5-aza-cyclohepta[f]inden-9-yl)-(2-methyl-2H-tetrazol-5-yl)-amine | 2.16 mmol | FC(C=1C=C(CN(C=2N=NN(N2)C)[C@H]2CCCNC=3C2=CC=2COCC2C3Br)C=C(C1)C(F)(F)F)(F)F | C23H21BrF6N6O
reactant | cesium fluoride | 9.32 mmol | [F-].[Cs+]
reactant | methylboronic acid | 6.48 mmol | CB(O)O | CH5BO2
solvent | dioxane | 150 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 50 mL | O | H2O
product | (S)-(3,5-Bis-trifluoromethyl-benzyl)-(4-methyl-3,5,6,7,8,9-hexahydro-1H-2-oxa-5-aza-cyclohepta[f]inden-9-yl)-(2-methyl-2H-tetrazol-5-yl)-amine | FC(C=1C=C(CN(C=2N=NN(N2)C)[C@H]2CCCNC=3C2=CC=2COCC2C3C)C=C(C1)C(F)(F)F)(F)F | C24H24F6N6O
